US04603220
Similarly to Example 1, 250 g of m-nitrotoluene was oxidized in the presence of 150 g of acetic acid, 4.5 g of cobalt acetate tetrahydrate and 2 g of sodium bromide at a pressure of 25 bar, a temperature of 135°-145° C. and a gas exhaust rate of 3 1/min, within a period of 200 minutes. The reaction mixture, diluted with 400 g of 69% acetic acid, was cooled to 5° C. with stirring, filtered, twice washed with 125 g of 50% acetic acid at 5° C. and once with 150 g of water, the mother liquor (514.5 g) and the combined washing filtrates (441 g) being recovered separately. After drying, 230 g of m-nitrobenzoic acid was obtained.

reactant | m-nitrotoluene | 250 g | [N+](=O)([O-])C=1C=C(C=CC1)C | C7H7NO2
reactant | acetic acid | 400 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 150 g | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 4.5 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | sodium bromide | 2 g | [Br-].[Na+]
product | m-nitrobenzoic acid | 230 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
